US04743703
A. 3-Chloro-4-fluoroacetophenone
53.2 gm. (400 mmol) of aluminum chloride was carefully added in portions to a mixture of 26.2 gm (200 mmol) of 1-chloro-2-fluorobenzene and 31.2 gm of acetyl chloride at 50° C. After all the Lewis acid had been added, the reaction temperature was raised to 100° C. and maintained at that temperature for 3 hours. The hot reaction mixture was carefully poured onto ice and the resulting light-red oil twice extracted with ether. The combined ether extraacts were washed with saturated sodium chloride solution, dried and evaporated in vacuo to yield a crude brown oil. The oil was distilled to yield 26.47 gm of colorless oil.

reactant | aluminum chloride | 400 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-chloro-2-fluorobenzene | 200 mmol, 26.2 gm | ClC1=C(C=CC=C1)F | C6H4ClF
reactant | acetyl chloride | 31.2 gm | C(C)(=O)Cl | C2H3ClO
product | 3-Chloro-4-fluoroacetophenone | 26.47 gm | CC(=O)C1=CC(=C(C=C1)F)Cl | C8H6ClFO
